US05849769
5'-Fluoro-2'-hydroxyacetophenone (9.38 g, 61 mmole), iodoethane (7.3 ml, 91 mmole) and K2CO3 (12.6 g, 91 mmole) in acetone (100 ml) was stirred at 60° C. overnight. The mixture was filtered, evaporated, dissolved in hexane/ethyl acetate, washed with 2M NaOH (2×20 ml) and water, dried (MgSO4) and evaporated to give 2'-ethoxy-5'-fluoroacetophenone. A solution of mCPBA )19.3 g, 112 mmole) in CH2Cl2 (500 ml) was dried with MgSO4. 2'-Ethoxy-5'-fluoro-acetophenone (10.2 g, 56 mmole) was added and the mixture was stirred for 3 days. More mCPBA (5 g, 29 mmole) and MgSO4 was added and stirring was continued for 2 days. The mixture was filtered, diluted with ethyl acetate, washed with 2M NaOH (2×70 ml), NH4 Cl (sat, 50 ml), dried (MgSO4) and evaporated. The residue (10.45 g,) was dissolved in ethanol (100 ml). KOH (8.9 g, 160 mmole) was dissolved in water (50 ml). The solutions were combined and stirred for 1 h. The mixture was washed with diethyl ether/hexane 2×(50+25 ml), acidified with HCl (konc), extracted with ethyl acetate (3×100 ml), dried (MgSO4) and evaporated. The residue (8.22 g) was dissolved in CH2Cl2 (100 ml). Triethylamine 11.7 ml, 84 mmole) and bromomethyl methyl ether (6.45 ml, 79 mmole) were added and the solution was refluxed for 2 hrs. More triethylamine 11.7 ml, 84 mmole) and bromomethyl methyl ether (6.45 ml, 79 mmole) were added and refluxing was continued overnight. The solution was evaporated, CH2Cl2 (200 ml) was added and the solution was washed with water, 2M NaOH and NH4Cl. Drying (MgSO4) and evaporation provided 4.0 g of 1-ethoxy-4-fluoro-2-methoxymethoxybenzene. This compound was reacted in a manner analogous to Example 39 to give (+,-)-N-(cis-2-(3-ethoxy-6-fluoro-2-methoxymethoxyphenyl)-cyclopropyl)-N'-(5-chloropyrid-2-yl)-urea. Finally deprotection with 2M HCl in dioxane gave the titled compound. 1H NMR (250 MHz, DMSO-D6) δ 1.04-1.14 (m, 1H), 1.41-1.56 (m+t, 4H), 1.96-2.06 (m, 1H), 3.05-3.15 (m, 1H), 4.06-4.19 (m, 2H), 6.64 (t, 1H), 6.94 (dd, 1H), 7.19 (d, 1H), 7.82(dd, 1H), 8.10(d, 1H), 8.61 (br.s, 1H), 9.08 (br.s, 1H), 9.57 (br.s, 1H).

reactant | 5'-Fluoro-2'-hydroxyacetophenone | 61 mmole, 9.38 g | FC=1C=CC(=C(C1)C(C)=O)O | C8H7FO2
reactant | iodoethane | 91 mmole, 7.3 ml | ICC | C2H5I
reactant | K2CO3 | 91 mmole, 12.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2'-ethoxy-5'-fluoroacetophenone | C(C)OC1=C(C=C(C=C1)F)C(C)=O | C10H11FO2
